US07834043B2
tert-butyl(1S)-1-{(2S)-5-oxo-4-[4-(2-pyridinyl)benzyl]tetrahydro-2-furanyl}-2-phenylethylcarbamate
A solution of tert-Butyl (1S)-1-[(2R)-oxiran-2-yl]-2-phenylethylcarbamate (10.0 g, 38.0 mmol) and diethyl malonate (5.8 ml, 38.2 mmol) in ethanol (30 mL) at 0° C. was treated with sodium ethoxide (17 mL, 21% in ethanol) over 10 minutes. The reaction was warmed to 25° C. and stirred for 2 hours, treated with additional diethyl malonate (0.58 mL, 3.4 mmol) and stirred for 1 hour. The reaction was cooled to 0° C., and solid 2-[4-(bromomethyl)phenyl]pyridine (9.43 g, 38.0 mmol) was added in four increments over 10 minutes. To this suspension was added ethanol (20 mL) and the mixture was stirred at 25° C. for 16 hours. The reaction mixture was treated with LiOH monohydrate (4.6 g, 109.6 mmol) solution in water (30 mL), stirred at 25° C. for 16 hours, cooled to 0° C., adjusted to pH 5 by addition of 4N HCl and partitioned between dichloromethane and water. The organic phase was washed with brine and dried over MgSO4, filtered and concentrated. A solution of the concentrate in toluene (100 mL) was heated at reflux for 16 hours, cooled to 25° C. and concentrated to afford the title compound (21.4 g).

reactant | tert-Butyl (1S)-1-[(2R)-oxiran-2-yl]-2-phenylethylcarbamate | 38.0 mmol, 10.0 g | O1[C@@H](C1)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C15H21NO3
reactant | diethyl malonate | 38.2 mmol, 5.8 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | 17 mL | [O-]CC.[Na+]
reactant | 2-[4-(bromomethyl)phenyl]pyridine | 38.0 mmol, 9.43 g | BrCC1=CC=C(C=C1)C1=NC=CC=C1 | C12H10BrN
reactant | HCl | 4N | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
catalyst | diethyl malonate | 3.4 mmol, 0.58 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-butyl(1S)-1-{(2S)-5-oxo-4-[4-(2-pyridinyl)benzyl]tetrahydro-2-furanyl}-2-phenylethylcarbamate | 21.4 g | O=C1C(C[C@H](O1)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)CC1=CC=C(C=C1)C1=NC=CC=C1 | C29H32N2O4
